US08703979B2
To a solution of 5-hydroxynaphthalene-1,4-dione (171 mg, 1 mmol) in chloroform was added bromine, and the mixture was stirred. Then, to the resulting mixture were added acetic acid and ethanol, and the mixture was stirred under reflux to give 3-bromojuglone (80%). To the resulting 3-bromojuglone was added dimethylamine, and the mixture was stirred in toluene at room temperature to give 2-dimethylaminojuglone and 3-dimethylaminojuglone (85%).

reactant | 5-hydroxynaphthalene-1,4-dione | 1 mmol, 171 mg | OC1=C2C(C=CC(C2=CC=C1)=O)=O | C10H6O3
reactant | bromine | BrBr | Br2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-bromojuglone | 80% | C1=CC2=C(C(=C1)O)C(=O)C(=CC2=O)Br | C10H5BrO3
